US05690858
The above-prepared 2.60 g (8.02 mM) of 10-undecenyl p-toluenesulfonate, 3.0 g (16.0 mM) of dihydroxybiphenyl and 3 ml of butanol were mixed and sufficiently stirred. To the mixture, a solution of 0.41 g (9.74 mM) of sodium hydride in 6 ml of butanol was added, followed by heat-refluxing for 7 hours at 110° C. After the reaction, the reaction mixture was subjected to distilling-off of butanol and addition of water, followed by extraction with ether to obtain an extract. The extract was dried with anhydrous sodium sulfate, followed by distilling-off of ether and purification by column chromatography (eluent: methylene chloride) to obtain 1.55 g (3.82 mM) of p-(10-undecenyl)oxyhydroxybiphenyl (Yield: 47.6%).

reactant | 10-undecenyl p-toluenesulfonate | 8.02 mM, 2.60 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCCCCCC=C)C | C18H28O3S
reactant | dihydroxybiphenyl | 16.0 mM, 3.0 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | sodium hydride | 9.74 mM, 0.41 g | [H-].[Na+]
reactant | water | O | H2O
solvent | butanol | 6 ml | C(CCC)O | C4H10O
solvent | butanol | 3 ml | C(CCC)O | C4H10O
product | p-(10-undecenyl)oxyhydroxybiphenyl | 3.82 mM, 1.55 g, Yield: 47.6% | C(CCCCCCCCC=C)OC1=CC(=C(C=C1)C1=CC=CC=C1)O | C23H30O2
